US04528194
In 60 ml of isopropanol were taken up 11.9 g (47 mmol) of 1-diphenylmethylpiperazine and 5.23 g (52 mmol) of triethylamine, and the resultant mixture was added with a solution which had been prepared by dissolving 13.6 g (47 mmol) of 2-bromo-1-(2,3,4-trimethoxyphenyl)ethanone in 50 ml of isopropanol. After being stirred for 3 hours at room temperature, the reaction mixture was poured into 200 ml of water. The mixture was extracted with 150 ml of ethyl acetate. The thus obtained organic layer was washed successively with water and saturated saline and thereafter dried over anhydrous sodium sulfate. After removal of the solvent, the residue was recrystallized from ethanol to give 14.8 g of 2-(4-diphenylmethylpiperazinyl)-1-(2,3,4-trimethoxyphenyl)ethanone (yield: 68%).

reactant | 1-diphenylmethylpiperazine | 47 mmol, 11.9 g | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | triethylamine | 52 mmol, 5.23 g | C(C)N(CC)CC | C6H15N
reactant | 2-bromo-1-(2,3,4-trimethoxyphenyl)ethanone | 47 mmol, 13.6 g | BrCC(=O)C1=C(C(=C(C=C1)OC)OC)OC | C11H13BrO4
reactant | water | 200 ml | O | H2O
solvent | isopropanol | 60 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 2-(4-diphenylmethylpiperazinyl)-1-(2,3,4-trimethoxyphenyl)ethanone | 14.8 g, yield: 68% | C1(=CC=CC=C1)C(N1CCN(CC1)CC(=O)C1=C(C(=C(C=C1)OC)OC)OC)C1=CC=CC=C1 | C28H32N2O4
